US06794395B1
(23) 3-(Z)-(1-[4-(piperidin-1-yl-carbonyl)-anilino)-1-phenyl-methylidene}-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone and 4-(piperidin-1-yl-carbonyl)-aniline

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(C1=CC=CC=C1)OCC)=O | C21H21NO5
reactant | 4-(piperidin-1-yl-carbonyl)-aniline | N1(CCCCC1)C(=O)C1=CC=C(N)C=C1 | C12H16N2O
product | 3-(Z)-(1-[4-(piperidin-1-yl-carbonyl)-anilino)-1-phenyl-methylidene}-5,6-dimethoxy-2-indolinone | N1(CCCCC1)C(=O)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C29H29N3O4
